US09034900B2
N-[4-(2,4-difluorophenoxy)-3-(1-methyl-6-oxo-5-pyrrolidin-1-ylpyridin-3-yl)phenyl]methanesulfonamide
The title compound was prepared in a manner similar to Example 122, substituting 1-methyl-3-pyrrolidin-1-yl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one for 3-Fluoro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one and N-[3-bromo-4-(2,4-difluorophenoxy)phenyl]methanesulfonamide for N-[3-Bromo-4-(2,4-difluorophenoxy)phenyl]ethanesulfonamide. LCMS (M+H)+=476.

reactant | 3-Fluoro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one | FC=1C(N(C=C(C1)B1OC(C(O1)(C)C)(C)C)C)=O | C12H17BFNO3
reactant | N-[3-bromo-4-(2,4-difluorophenoxy)phenyl]methanesulfonamide | BrC=1C=C(C=CC1OC1=C(C=C(C=C1)F)F)NS(=O)(=O)C | C13H10BrF2NO3S
reactant | N-[3-Bromo-4-(2,4-difluorophenoxy)phenyl]ethanesulfonamide | BrC=1C=C(C=CC1OC1=C(C=C(C=C1)F)F)NS(=O)(=O)CC | C14H12BrF2NO3S
product | N-[4-(2,4-difluorophenoxy)-3-(1-methyl-6-oxo-5-pyrrolidin-1-ylpyridin-3-yl)phenyl]methanesulfonamide | FC1=C(OC2=C(C=C(C=C2)NS(=O)(=O)C)C2=CN(C(C(=C2)N2CCCC2)=O)C)C=CC(=C1)F | C23H23F2N3O4S
